US08871758B2
1-(2,2,2-Trifluoro-1-hydroxy-1-methylethyl)cyclopropanesulfonamide
Under inert gas, 250 mg of 1-(2,2,2-trifluoroacetyl)cyclopropanesulfonamide were initially charged in 6 ml of THF and then, at a temperature of −78° C., 1.15 ml of a 3.0 N methylmagnesium bromide solution in diethyl ether were added dropwise and the mixture was stirred at constant temperature for 4 hours. The reaction solution was admixed with 5 ml of a saturated aqueous ammonium chloride solution and allowed to come to room temperature while stirring. After adjustment to pH 5 with 2 N aqueous hydrochloric acid, the mixture was extracted with 10 ml of ethyl acetate, and the organic phase was dried over Na2SO4 and concentrated by rotary evaporation. This gave the product (208 mg) with a molecular weight of 233.2 g/mol (C6H10F3NO3S); MS (ESI): m/e=234 (M+H+).

reactant | 1-(2,2,2-trifluoroacetyl)cyclopropanesulfonamide | 250 mg | FC(C(=O)C1(CC1)S(=O)(=O)N)(F)F | C5H6F3NO3S
reactant | methylmagnesium bromide | 3.0 N | C[Mg]Br
reactant | ammonium chloride | 5 ml | [Cl-].[NH4+]
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-(2,2,2-Trifluoro-1-hydroxy-1-methylethyl)cyclopropanesulfonamide | 208 mg | FC(C(C)(O)C1(CC1)S(=O)(=O)N)(F)F | C6H10F3NO3S
